US05401756
c) Preparation of 2,3-dihydro-6-methoxy-2-(3-pyridylmethyl)-1H-isoindole-1-one
To a suspension of 136 mg of sodium hydride (about 60%) in 7 ml of dimethylformamide chilled at 0° C. was added 820 mg of 2-acetoxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide and the resultant mixture was stirred at room temperature for 2 hours. The reaction mixture was mixed with water and shaken with toluene. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate to give 386 mg of the titled compound.

reactant | sodium hydride | 136 mg | [H-].[Na+]
reactant | 2-acetoxymethyl-5-methoxy-N-(3-pyridylmethyl) benzamide | 820 mg | C(C)(=O)OCC1=C(C(=O)NCC=2C=NC=CC2)C=C(C=C1)OC | C17H18N2O4
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-6-methoxy-2-(3-pyridylmethyl)-1H-isoindole-1-one | 386 mg | COC1=CC=C2CN(C(C2=C1)=O)CC=1C=NC=CC1 | C15H14N2O2
